US05763437
To a suspension of sodium hydride (0.11 g of a 64% dispersion in mineral oil) in dry N,N-dimethylformamide (10 ml) was added (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one (1.00 g) under stirring for 2 hours at ambient temperature. To the mixture was added sodium iodide (0.42 g) and followed dropwise a solution of 2-chloromethyl-3-methyl-pyridine (0.389 g) in dry N,N-dimethylformamide (3 ml) at ambient temperature. The mixture was stirred overnight at room temperature. The mixture was concentrated in vacuo, and the residue was taken up with ethyl acetate. The organic layer was washed with saturated sodium carbonate aqueous solution, dried over sodium sulfate, filtered and concentrated in vacuo to give (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-3-phtalimido-1H-1,4-benzodiazepin-2-one (1.24 g). The product was used in a following reaction step without further purification.

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.00 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H14FN3O3
reactant | sodium iodide | 0.42 g | [I-].[Na+]
reactant | 2-chloromethyl-3-methyl-pyridine | 0.389 g | ClCC1=NC=CC=C1C | C7H8ClN
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(3-methylpyridin-2-yl)methyl-3-phtalimido-1H-1,4-benzodiazepin-2-one | 1.24 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NC=CC=C2C)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C30H21FN4O3
